US05120758
4-Phenoxyphenol (20.0 g, 107 mmol) and sodium hydroxide (3.8 g, 845 mmol) are dissolved in a water/ethanol (130 mL/26 mL) mixture and heated at 70° C. To this reaction mixture is added chloroform (24.6 g, 215 mmol) dropwise over 45 minutes, and heating is continued for 3 hours. The mixture is cooled to room temperature, and then evaporated. The aqueous phase is acidified with concentrated hydrochloric acid to pH 1-3, and extracted with ether. The organic phase is dried over magnesium sulfate and evaporated. Purification of the residue by silica-gel flash chromatography gives 2-hydroxy-5-phenoxybenzaldehyde as a yellow solid.

reactant | 4-Phenoxyphenol | 107 mmol, 20.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydroxide | 845 mmol, 3.8 g | [OH-].[Na+]
reactant | chloroform | 215 mmol, 24.6 g | C(Cl)(Cl)Cl | CHCl3
reactant | water ethanol | 130 mL | O.C(C)O
product | 2-hydroxy-5-phenoxybenzaldehyde | OC1=C(C=O)C=C(C=C1)OC1=CC=CC=C1 | C13H10O3
